US06060462
Part A: A mixture of glycine methyl ester hydrochloride (3.83 g, 30.5 mmol), acetone (1.77 g, 30.5 mmol) and NaOH (1.22 g, 30.5 mmol) in MeOH (200 mL) was stirred under an atmosphere of hydrogen (1 atm) in the presence of palladium on carbon (10%, 0.4 g) for 24 hours. The reaction was flushed with nitrogen and filtered through a Celite pad, acidified with HCl (1N), dried (MgSO4) and evaporated. Trituration of the residue with Et2O gave N-2-propylglycine methyl ester hydrochloride (1.0 g) as an off-white solid; LRMS (M+H)+ =132.1.

reactant | glycine methyl ester hydrochloride | 30.5 mmol, 3.83 g | Cl.COC(CN)=O
reactant | acetone | 30.5 mmol, 1.77 g | CC(=O)C | C3H6O
reactant | NaOH | 30.5 mmol, 1.22 g | [OH-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | N-2-propylglycine methyl ester hydrochloride | 1.0 g | Cl.COC(CNC(C)C)=O | InChI=1S/C6H13NO2.ClH/c1-5(2)7-4-6(8)9-3;/h5,7H,4H2,1-3H3;1H
